US07985761B2
4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile
In 250 ml of water and 500 ml of 1,2-dimethoxyethane, was mixed 26.5 g of 4-(trifluoromethyl)benzeneboronic acid, 25 g of 2-amino-5-bromo-benzonitrile and 57.9 g of potassium carbonate. The mixture was bobbled through with nitrogen for 10 minutes, then 1 g of bis(triphenylphosphine)palladium(II) choride was added and the reaction mixture was heated at reflux overnight. The reaction mixture was cooled to room temperature, added 700 ml of water and extracted with 800 ml of ethyl acetate. The organic phase was washed first with 300 ml of saturated sodium chloride, then 300 ml of 2 M calcium chloride and at last with 300 ml of water. The organic phase was dried with magnesium sulfate, evaporated to an oil and trituated with ether. Yield 30.5 g (92%).

reactant | 4-(trifluoromethyl)benzeneboronic acid | 26.5 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-amino-5-bromo-benzonitrile | 25 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | potassium carbonate | 57.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 250 ml | O | H2O
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
solvent | water | 700 ml | O | H2O
product | 4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile | NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C#N | C14H9F3N2
